US07875645B2
rac-2-[1-(2-Bromo-phenyl)-ethyl]-4,5-dihydro-1H-imidazole was prepared from rac-2-(2-bromo-phenyl)-propionitrile and ethylene diamine in analogy to Example 19 b): off-white solid; MS (EI): 251.0 and 253.0 (M+.), 173.1 (((M-Br)+.), 100%).

reactant | rac-2-(2-bromo-phenyl)-propionitrile | BrC1=C(C=CC=C1)C(C#N)C | C9H8BrN
reactant | ethylene diamine | C(CN)N | C2H8N2
product | rac-2-[1-(2-Bromo-phenyl)-ethyl]-4,5-dihydro-1H-imidazole | BrC1=C(C=CC=C1)C(C)C=1NCCN1 | C11H13BrN2
